US08247415B2
Preparation of 2-[6-oxopyrimidin-1(6H)-yl]propanoic acid (i-35)
To pyrimidin-4(3H)-one (0.908 g, 9.45 mmol) was added 5 N sodium hydroxide solution (3.8 mL) followed by (2R)-2-bromopropanoic acid (0.95 mL, 11 mmol). The reaction mixture was heated at 85° C. for 1 h. After cooled down to ambient temperature, it was neutralized with 2 M hydrochloric acid (5.2 mL) and then directly purified by reverse phase HPLC (TMC Pro-Pac C18; 0-40% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient). Removal of the volatiles in vacuo afforded the title compound as a white solid. 1H NMR (DMSO-d6): δ 8.48 (d, J=2.7 Hz, 1H), 7.88 (dd, J=7.8, 2.8 Hz, 1H), 6.12 (d, J=7.6 Hz, 1H), 5.04 (q, J=7.3 Hz, 1H), 1.64 (d, J=7.5 Hz, 3H). LC/MS 169.1 (M+1).

reactant | pyrimidin-4(3H)-one | 9.45 mmol, 0.908 g | N1=CNC(C=C1)=O | C4H4N2O
reactant | sodium hydroxide | 5 N, 3.8 mL | [OH-].[Na+]
reactant | (2R)-2-bromopropanoic acid | 11 mmol, 0.95 mL | Br[C@@H](C(=O)O)C | C3H5BrO2
reactant | hydrochloric acid | 2 M, 5.2 mL | Cl | ClH
product | 2-[6-oxopyrimidin-1(6H)-yl]propanoic acid | O=C1C=CN=CN1C(C(=O)O)C | C7H8N2O3
